US09403801B2
Step 1) tert-butyl 5-((2,5-dichloropyrimidin-4-yl)(methyl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a solution of 2,4,5-trichloropyrimidine (1.85 g, 10.1 mmol) and tert-butyl 5-(methylamino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (3.66 g, 15.2 mmol) in EtOH (20 mL) was added Et3N (2.08 g, 20.6 mmol). After addition, the reaction mixture was stirred at rt overnight and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/12) to give the title compound as yellow oil (987.8 mg, 25.3%).

reactant | 2,4,5-trichloropyrimidine | 10.1 mmol, 1.85 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | tert-butyl 5-(methylamino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 15.2 mmol, 3.66 g | CNC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C13H24N2O2
reactant | Et3N | 20.6 mmol, 2.08 g | CCN(CC)CC | C6H15N
solvent | EtOH | 20 mL | CCO | C2H6O
product | tert-butyl 5-((2,5-dichloropyrimidin-4-yl)(methyl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 987.8 mg, 25.3% | ClC1=NC=C(C(=N1)N(C1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)C)Cl | C17H24Cl2N4O2
